US04999134
Basic Zn N-benzenesulfonylpiperidine-4-carboxylate
12.12 g (0.045M) of N-benzenesulfonylpiperidine-4-carboxylic acid were dissolved in 250 ml of water with the addition of 22.5 ml of 4N NaOH at 50° C. Thereafter, 2.94 g (0.045M) of ZnSO4.7H2O, dissolved in 100 ml of water, was slowly added at 50° C. After the mixture had been stirred for 3 1/2 hours at 50° C., the resulting pH was 7.3. The mixture was then stirred at room temperature, and the product was filtered off under suction, washed and dried. 15.8 g of a product which contained 1.05 moles of Zn per mole of starting acid resulted.

reactant | N-benzenesulfonylpiperidine-4-carboxylic acid | 0.045M, 12.12 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C(=O)O | C12H15NO4S
reactant | Zn | 1.05 moles | [Zn] | Zn
solvent | water | 250 ml | O | H2O
solvent | NaOH | 4N, 22.5 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | Zn N-benzenesulfonylpiperidine-4-carboxylate | [Zn].C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)C(=O)[O-] | InChI=1S/C12H15NO4S.Zn/c14-12(15)10-6-8-13(9-7-10)18(16,17)11-4-2-1-3-5-11;/h1-5,10H,6-9H2,(H,14,15);/p-1
